US07816371B2
e. (R)-2-(3-Fluoro-4-(trifluoromethyl)phenyl)-N-(2-(1-hydroxypropan-2-yl)-6-methyl-1-oxo-1,2-dihydroisoquinolin-5-yl)acetamide
A round bottom flask was charged with (R)-2-(5-(2-(3-fluoro-4-(trifluoromethyl)phenyl)acetamido)-6-methyl-1-oxoisoquinolin-2(1H)-yl)propyl acetate (300.00 mg, 6.2704E-4 mol), potassium carbonate (260 mg, 0.0019 mol), methanol (20 mL, 0.4 mol) and 2 drops of water. The reaction was stirred at room temperature for 20 minutes. The solvent was removed and the reaction mixture was extracted with ethyl acetate and the solvent was removed to obtain the product as a light yellow solid. MS m/z=437.5 (M+H). 1H NMR (400 MHz, DMSO-d6): δ 9.91 (s, 1H), 8.07 (d, J=8.45 Hz, 1H), 7.79 (t, J=7.85 Hz, 1H), 7.53 (d, J=12.68 Hz, 1H), 7.45 (d, J=7.85 Hz, 2H), 7.37 (d, J=8.45 Hz, 1H), 6.44 (d, J=7.66 Hz, 1H), 5.05-5.00 (m, 1H), 4.93 (t, J=5.66 Hz, 1H), 3.92 (s, 2H), 3.67-3.51 (m, 2H), 2.22 (s, 3H), 1.28 (d, J=7.51 Hz, 3H).

reactant | (R)-2-(5-(2-(3-fluoro-4-(trifluoromethyl)phenyl)acetamido)-6-methyl-1-oxoisoquinolin-2(1H)-yl)propyl acetate | 6.2704E-4 mol, 300.00 mg | C(C)(=O)OC[C@@H](C)N1C(C2=CC=C(C(=C2C=C1)NC(CC1=CC(=C(C=C1)C(F)(F)F)F)=O)C)=O | C24H22F4N2O4
reactant | potassium carbonate | 0.0019 mol, 260 mg | C([O-])([O-])=O.[K+].[K+]
reactant | methanol | 0.4 mol, 20 mL | CO | CH4O
catalyst | water | 2 drops | O | H2O
product | (R)-2-(3-Fluoro-4-(trifluoromethyl)phenyl)-N-(2-(1-hydroxypropan-2-yl)-6-methyl-1-oxo-1,2-dihydroisoquinolin-5-yl)acetamide | FC=1C=C(C=CC1C(F)(F)F)CC(=O)NC1=C2C=CN(C(C2=CC=C1C)=O)[C@@H](CO)C | C22H20F4N2O3
